US05830902
3-Hydroxymethyl-10-methylphenothiazine-5-oxide
With ice-cooling, m-chloroperbenzoic acid (1.66 g, 9.6 mmol) was added to a mixture of 3-hydroxymethyl-10-methylphenothiazine (1.94 g, 8.0 mmol) and dichloromethane (30 ml), and the mixture was stirred for 1.5 hours and then at room temperature for 1.5 hours. A saturated sodium bicarbonate aqueous solution was added to the reaction mixture and the reaction product was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and then concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent; methanol:chloroform=3:97 then 10:90) to give the title compound (1.95 g, 7.52 mmol, 94%) as colorless crystals.

reactant | m-chloroperbenzoic acid | 9.6 mmol, 1.66 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-hydroxymethyl-10-methylphenothiazine | 8.0 mmol, 1.94 g | OCC=1C=CC=2N(C3=CC=CC=C3SC2C1)C | C14H13NOS
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 3-Hydroxymethyl-10-methylphenothiazine-5-oxide | 7.52 mmol, 1.95 g, 94% | OCC=1C=CC=2N(C3=CC=CC=C3S(C2C1)=O)C | C14H13NO2S
